US05994378
A mixture of 4-tert-butyl-2-{5-{[4-(chloromethyl)thiazol-2-yl]methyl}benzofuran-2-yl}thiazole (0.46 g) , sodium cyanide (0.22 g) and potassium iodide (0.19 g) in methanol (10 ml) was stirred under reflux for 21 hours. After being cooled, the mixture poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in reduced pressure to give a syrup. The syrup was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and toluene (1:20). The fractions containing object compound were combined and concentrated under reduced pressure to give 4-tert-butyl-2-{5-{[4-(cyanomethy)thiazol-2-yl]methyl}benzofuran-2-yl}thiazole (0.19 g).

reactant | 4-tert-butyl-2-{5-{[4-(chloromethyl)thiazol-2-yl]methyl}benzofuran-2-yl}thiazole | 0.46 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC=2SC=C(N2)CCl | C20H19ClN2OS2
reactant | sodium cyanide | 0.22 g | [C-]#N.[Na+]
reactant | potassium iodide | 0.19 g | [I-].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 4-tert-butyl-2-{5-{[4-(cyanomethy)thiazol-2-yl]methyl}benzofuran-2-yl}thiazole | 0.19 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC=2SC=C(N2)CC#N | C21H19N3OS2
